### PR TITLE
[Merged by Bors] - chore: avoid lean3 style have/suffices

### PR DESCRIPTION
**Pull request by kim-em**
Many proofs use the "stream of consciousness" style from Lean 3, rather than `have ... := ` or `suffices ... from/by`.

This PR updates a fraction of these to the preferred Lean 4 style.

I think a good goal would be to delete the "deferred" versions of `have`, `suffices`, and `let` at the bottom of `Mathlib.Tactic.Have`

(Anyone who would like to contribute more cleanup is welcome to push directly to this branch.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ericrbg** [comment]
I personally think the style with `have/suffices ... \. proof` is really quite nice and it's a shame we're getting rid of it. The new `from` looks weird to me without the preceding comma, too.

**Comment by semorrison** [comment]
I think this is a lean3-ism, which unnecessarily introduces an intermediate tactic state with multiple goals (immediately before the `·`) which doesn't help either human or machine readers of the code.

This PR originated because I made a PR upstreaming the tactic supporting this style to Std, and @digama0 (correctly, I think!) told me this was [a bad idea](https://github.com/leanprover/std4/pull/239).

Supporting this syntax also makes parsing slightly more complicated, because Lean has to decide whether the core syntax or the overriden syntax from Mathlib is relevant. Of course it can cope, but why not make it unambiguous? 

I think everything is better about the new style, and we should consciously move on from lean3-isms where possible, rather than holding on to them out of familiarity.

**Comment by digama0** [comment]
One reason not to do this manually is that this syntactic transformation is within the realm of things we could do automatically (once we get full library syntax rewrites working).

**Comment by semorrison** [comment]
Sorry, why is that a reason to not do it? Are you asking that this be left as a warm-up / practice problem for full library rewrites?

**Comment by digama0** [comment]
It's fine if you want to do it now, but it might be a waste of work if a computer will soon automate the job.

**Comment by semorrison** [comment]
I wasn't proposing to do anymore than are already here.

**Comment by sgouezel** [comment]
I have always difficulties with the syntax for `suffices`. Why isn't it `suffices H : ... := by ...` just like everywhere else?

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 1]
```diff
@@ -147,8 +147,8 @@ theorem filter_snd_eq_antidiagonal (n m : ℕ) :
     (antidiagonal n).filter (fun a ↦ a.snd ≤ k) = (antidiagonal k).map
       (Embedding.prodMap ⟨_, add_left_injective (n - k)⟩ (Embedding.refl ℕ)) := by
   ext ⟨i, j⟩
-  suffices : i + j = n ∧ j ≤ k ↔ ∃ a, a + j = k ∧ a + (n - k) = i
-  · simpa
+  suffices i + j = n ∧ j ≤ k ↔ ∃ a, a + j = k ∧ a + (n - k) = i by
+    simpa
```
Comment (sgouezel) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:151]:
```suggestion
  suffices i + j = n ∧ j ≤ k ↔ ∃ a, a + j = k ∧ a + (n - k) = i by simpa
```

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 2]
```diff
@@ -173,8 +173,8 @@ theorem filter_snd_eq_antidiagonal (n m : ℕ) :
     (antidiagonal n).filter (fun a ↦ k ≤ a.fst) = (antidiagonal (n - k)).map
       (Embedding.prodMap ⟨_, add_left_injective k⟩ (Embedding.refl ℕ)) := by
   ext ⟨i, j⟩
-  suffices : i + j = n ∧ k ≤ i ↔ ∃ a, a + j = n - k ∧ a + k = i
-  · simpa
+  suffices i + j = n ∧ k ≤ i ↔ ∃ a, a + j = n - k ∧ a + k = i by
+    simpa
```
Comment (sgouezel) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:177]:
```suggestion
  suffices i + j = n ∧ k ≤ i ↔ ∃ a, a + j = n - k ∧ a + k = i by simpa
```

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -2784,7 +2784,7 @@ theorem foldlM_eq_foldl (f : β → α → m β) (b l) :
     List.foldlM f b l = foldl (fun mb a => mb >>= fun b => f b a) (pure b) l := by
   suffices h :
     ∀ mb : m β, (mb >>= fun b => List.foldlM f b l) = foldl (fun mb a => mb >>= fun b => f b a) mb l
-  · simp [← h (pure b)]
+  by simp [← h (pure b)]
```
Comment (sgouezel) [inline Mathlib/Data/List/Basic.lean:2787]:
```suggestion
    by simp [← h (pure b)]
```

File: Mathlib/Data/List/EditDistance/Bounds.lean [hunk 4]
```diff
@@ -69,8 +69,8 @@ theorem le_suffixLevenshtein_cons_minimum (xs : List α) (y ys) :
   obtain ⟨a', suff', rfl⟩ := m
   apply List.minimum_le_of_mem'
   simp only [List.mem_map, List.mem_tails]
-  suffices : ∃ a, a <:+ xs ∧ levenshtein C a ys = levenshtein C a' ys
-  · simpa
+  suffices ∃ a, a <:+ xs ∧ levenshtein C a ys = levenshtein C a' ys by
+    simpa
```
Comment (sgouezel) [inline Mathlib/Data/List/EditDistance/Bounds.lean:73]:
```suggestion
  suffices ∃ a, a <:+ xs ∧ levenshtein C a ys = levenshtein C a' ys by simpa
```

File: Mathlib/Order/PrimeIdeal.lean [hunk 5]
```diff
@@ -198,8 +198,8 @@ instance (priority := 100) IsPrime.isMaximal [IsPrime I] : IsMaximal I := by
   simp only [IsMaximal_iff, Set.eq_univ_iff_forall, IsPrime.toIsProper, true_and]
   intro J hIJ x
   rcases Set.exists_of_ssubset hIJ with ⟨y, hyJ, hyI⟩
-  suffices ass : x ⊓ y ⊔ x ⊓ yᶜ ∈ J
-  · rwa [sup_inf_inf_compl] at ass
+  suffices ass : x ⊓ y ⊔ x ⊓ yᶜ ∈ J by
+    rwa [sup_inf_inf_compl] at ass
```
Comment (sgouezel) [inline Mathlib/Order/PrimeIdeal.lean:202]:
```suggestion
  suffices ass : x ⊓ y ⊔ x ⊓ yᶜ ∈ J by rwa [sup_inf_inf_compl] at ass
```

**Review by sgouezel — COMMENTED** [review]
It's clearly much better like that, thanks!
bors d+

**Comment by semorrison** [comment]
bors merge
